US06660744B1
To a solution of tert-butyl 3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-azetanecarboxylate (0.81 g, 0.0018 mol) in dichloromethane (5 mL) was slowly added a 20% solution of trifluoroacetic acid in dichloromethane (10 mL) at 0° C. under an atmosphere of nitrogen. The mixture was warmed to room temperature and stirred for eighteen hours. The solvent was removed under reduced pressure. An aqueous solution of 5 N sodium hydroxide was added to the residue to pH 11 at 0° C. The water phase was extracted with ethyl acetate (2×30 mL). The combined organic extracts were washed with water (1×60 mL) and brine (1×60 mL) and dried over sodium sulfate. The solvent was removed under reduced pressure to yield 1-(3-azetanyl)-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.44 g, 0.0012 mol).

reactant | tert-butyl 3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-azetanecarboxylate | 0.0018 mol, 0.81 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CN(C2)C(=O)OC(C)(C)C | C25H26N6O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-(3-azetanyl)-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.0012 mol, 0.44 g | N1CC(C1)N1N=C(C=2C1=NC=NC2N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C20H18N6O
